US07989444B2
3-methyl-7-[3-({4-methyl-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}thio)propyl]-6,7,8,9-tetrahydro-5H-isoxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 3-methyl-6,7,8,9-tetrahydro-5H-isoxazolo[4,5-h][3]benzazepine (0.12 mmol) and 3-[(3-chloropropyl)thio]-4-methyl-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazole (0.14 mmol) and was obtained as a faint yellow slightly hygroscopic solid (0.01 mmol).

reactant | 3-methyl-6,7,8,9-tetrahydro-5H-isoxazolo[4,5-h][3]benzazepine | 0.12 mmol | CC1=NOC2=CC3=C(CCNCC3)C=C21 | C12H14N2O
reactant | 3-[(3-chloropropyl)thio]-4-methyl-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazole | 0.14 mmol | ClCCCSC1=NN=C(N1C)C1=CC=C(C=C1)C(F)(F)F | C13H13ClF3N3S
product | 3-methyl-7-[3-({4-methyl-5-[4-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}thio)propyl]-6,7,8,9-tetrahydro-5H-isoxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC1=NOC2=CC3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=CC=C(C=C3)C(F)(F)F)C=C21 | InChI=1S/C25H26F3N5OS.ClH/c1-16-21-14-18-8-11-33(12-9-19(18)15-22(21)34-31-16)10-3-13-35-24-30-29-23(32(24)2)17-4-6-20(7-5-17)25(26,27)28;/h4-7,14-15H,3,8-13H2,1-2H3;1H
